US05384408
(a) 2-Iodo-6-trifluoromethylpyrazine
A three liter flask was charged with a solution of 2-amino-6-trifluoromethylpyrazine (obtained by the method of J. L. Miesel, U.S. Pat. No. 4,293,552, 95% pure by HPLC analysis, 32.6 g, 0.20 mol) in chloroform (1000 mL). Freshly ground iodine (101 g. 0.40 mol) was added to give a dark purple solution. After 40 min, a solution of t-butyl nitrite (22.9 g, 0.20 mol) in chloroform (300 mL) was added dropwise over 1 h. During the addition, slow gas evolution was observed together with a mild exotherm (<10° C.) which was moderated with a cold water bath. After an additional 1 h at room temperature the reaction mixture was washed with saturated aqueous sodium sulfite (3×500 mL) to remove the excess iodine. The chloroform solution was dried over magnesium sulphate, filtered and concentrated on a Buchi to give 23 g of an orange oil. The crude product was purified by distillation from copper (40-80 mesh, 200 mg) to give 19.5 g of the title compound as a yellow oil; b.p. 50°-56° C./0.6 mmHg; δ (360 MHz, CDCl3) 9.06 (1H, s, pyrazine-H), 8.86 (1H, s, pyrazine-H); m/e 274 (M+).

reactant | 2-amino-6-trifluoromethylpyrazine | NC1=NC(=CN=C1)C(F)(F)F | C5H4F3N3
reactant | iodine | 0.40 mol, 101 g | II | I2
reactant | t-butyl nitrite | 0.20 mol, 22.9 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | chloroform | 1000 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Iodo-6-trifluoromethylpyrazine | 23 g | IC1=NC(=CN=C1)C(F)(F)F | C5H2F3IN2
